US09326973B2
To a solution of cyclohex-1-en-1-ylmethanol (0.6 g, 5.35 mmol) in DCE (5 mL) at 0° C., was added 1 N diethylzinc in hexane (8.56 mL), the reaction mixture was stirred for 10 min, then chloroiodomethane (1.242 ml, 17.12 mmol) was added. The reaction mixture was stirred at 0° C. for 1 h, and then stirred at rt for 16 hr. The reaction was diluted with EtOAc and 1 N HCl, the organic phase was washed with sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated to yield an oil. The crude product was charged to a 25 g silica gel cartridge which was eluted with a 20 min gradient of 0-40% EtOAc in hexane to afford bicyclo[4.1.0]heptan-1-ylmethanol (0.12 g). 1H NMR (400 MHz, CDCl3) ppm 3.27-3.38 (2H, m), 1.81-1.92 (2H, m), 1.54-1.78 (2H, m), 1.11-1.37 (4H, m), 0.81 (1H, dddd, J=9.16, 7.22, 5.46, 1.51 Hz), 0.46 (1H, dd, J=9.29, 4.52 Hz), 0.24 (1H, t, J=5.02 Hz).

reactant | cyclohex-1-en-1-ylmethanol | 5.35 mmol, 0.6 g | C1(=CCCCC1)CO | C7H12O
reactant | diethylzinc | 1 N | C(C)[Zn]CC
reactant | chloroiodomethane | 17.12 mmol, 1.242 ml | ClCI | CH2ClI
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
solvent | hexane | 8.56 mL | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1 N | Cl | ClH
product | bicyclo[4.1.0]heptan-1-ylmethanol | 0.12 g | C12(CCCCC2C1)CO | C8H14O
